US04520028
Step A: N-[(1,1-Dimethylethoxy)carbonyl](2-carboethoxyethyl)-L-cysteine ethyl ester
Trimethylamine 120 ml (0.88 mole) is added dropwise over a 10 minute period to a stirring ice bath cooled solution containing 40.7 g (0.22 mole) of cysteine ethyl ester hydrochloride, 51.0 g (0.227 mole) of di-tert-butyldicarbonate, and 400 ml of dry CH2Cl2 under a positive argon atmosphere. After an additional 20 minutes the cooling bath is removed and the reaction is stirred at 25° C. for 4 hours. The reaction is then once again cooled with an ice bath and 31 ml (0.264 mole) of ethyl bromoacetate is added and allowed to react for 1 hour at 0° C. and 2 hours at 25° C. After removing the bulk of the solvent at reduced pressure the mixture is transferred to a separatory funnel, diluted with 300 ml of ether, and extracted with 200 ml of water. The organic layer is washed successively with 50 ml water and 50 ml brine and dried over MgSO4. Evaporation of the solvent at reduced pressure affords 75.2 g of a light yellow-orange oil suitable for use in Step B.

reactant | Trimethylamine | 0.88 mole, 120 ml | CN(C)C | C3H9N
reactant | cysteine ethyl ester hydrochloride | 0.22 mole, 40.7 g | Cl.C(C)OC([C@@H](N)CS)=O
reactant | di-tert-butyldicarbonate | 0.227 mole, 51.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl bromoacetate | 0.264 mole, 31 ml | BrCC(=O)OCC | C4H7BrO2
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
product | N-[(1,1-Dimethylethoxy)carbonyl](2-carboethoxyethyl)-L-cysteine ethyl ester | 75.2 g | C(C)OC([C@@H](N(C(=O)OC(C)(C)C)CCC(=O)OCC)CS)=O | C15H27NO6S
